US03984410
The isourea, 7.7 g (0.05 mole), was combined with 150 ml of tetrahydrofuran in a 500 ml three-neck flask. The solution was stirred and cooled in an ice-acetone bath to 10°C. Chloroacetyl chloride, 4 ml, 5.65 g (0.05 mole), was added drop-wise to the solution at such a rate that the temperature did not exceed 10°C. Following the addition, 69 ml, 5.05 g (0.05 mole) of triethyl amine was added drop-wise to the solution while the temperature was again maintained below 10°C. The resulting mixture was stirred at room temperature for 1 hour, then stirred for an additional hour at 45°C. The mixture was subsequently poured into 300 ml of benzene and washed with 150 ml of ice water. The organic phase was dried with MgSO4, and the solvent was evaporated to yield 10.4 g (90% yield) of N,N-diallyl-N'-(chloroacetyl)-O-methylisourea, nD30 1.4800, confirmed by NMR analysis.

reactant | isourea | NC(O)=N | CH4N2O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | Chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | triethyl amine | 0.05 mole, 69 ml, 5.05 g | C(C)N(CC)CC | C6H15N
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | N,N-diallyl-N'-(chloroacetyl)-O-methylisourea | 10.4 g, 90% yield | C(C=C)N(C(OC)=NC(CCl)=O)CC=C | C10H15ClN2O2
